US09212182B2
Under a nitrogen atmosphere, a solution of perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (1.50 g, 2.59 mmol), isoxazol-3-amine (0.268 ml, 3.63 mmol) and THF (25.9 ml) was cooled in an ice-bath for 15 min, then lithium bis(trimethylsilyl)amide (1M in THF) (6.48 ml, 6.48 mmol) was added dropwise. After 10 min, the whole was warmed to rt and stirred for 30 min. 6.48 mL of additional LHMDS was added and the reaction was stirred for 1 h. The mixture was diluted with 1N aq. HCl and EtOAc. The layers were separated, and the organic layer was washed with 1N aq. HCl. The aq. layers were combined and extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 70% EtOAc in heptane, to provide 1-(4-bromo-5-fluoro-2-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (873 mg, 70.4% yield) as brown solid. m/z (ESI) [M+H]+=477.9. NMR (400 MHz, DMSO-d6) δ ppm 1.17 (t, J=7.15 Hz, 1 H) 1.86 (s, 2 H) 1.99 (s, 1 H) 5.55 (br. s., 1 H) 5.88 (d, J=1.76 Hz, 1 H) 6.44 (d, J=1.87 Hz, 1 H) 6.78 (d, J=9.02 Hz, 1H) 6.83 (d, J=9.64 Hz, 1 H) 7.55 (d, J=9.12 Hz, 1 H) 7.84 (dd, J=8.91, 2.28 Hz, 1 H) 7.92 (dd, J=7.57, 0.52 Hz, 1 H) 8.27 (d, J=9.54 Hz, 1 H) 8.32 (d, J=1.76 Hz, 1 H) 8.40 (d, J=2.28 Hz, 1 H) 8.72 (d, J=1.76 Hz, 1 H) 11.67 (s, 1 H).

reactant | perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 2.59 mmol, 1.50 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)C | C22H10BrF6NO4S
reactant | isoxazol-3-amine | 3.63 mmol, 0.268 ml | O1N=C(C=C1)N | C3H4N2O
reactant | THF | 25.9 ml | C1CCOC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 6.48 mmol, 1M, 6.48 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | LHMDS | 6.48 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-bromo-5-fluoro-2-methylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 873 mg, 70.4% yield | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)C | C19H13BrFN3O4S
